US07687491B2
(13b) Methyl 1-({4-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1f) using {4-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol (0.17 g, 0.44 mmol) that was obtained in Example 13 (13a), carbon tetrabromide (0.19 g, 0.57 mmol), triphenylphosphine (0.15 g, 0.57 mmol), methyl 3-azetidinecarboxylate hydrochloride (0.10 g, 0.66 mmol), and N,N-diisopropylethylamine (0.23 mL, 1.3 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:3 to 1:2) as the eluent to afford the title compound (0.19 g) in a yield of 89% as a pale yellow oily product.

reactant | {4-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol | 0.44 mmol, 0.17 g | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CO | C21H18N2O3S
reactant | carbon tetrabromide | 0.57 mmol, 0.19 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.57 mmol, 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.66 mmol, 0.10 g | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.3 mmol, 0.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({4-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CN1CC(C1)C(=O)OC | C26H25N3O4S
